US07465749B2
U.S. Pat. No. 4,978,672 (“the '672 patent”) describes a process for preparing letrozole by reacting α-bromo-4-tolunitrile with 1,2,4-triazole to produce 4-[1-(1,2,4-triazolyl)methyl]-benzonitrile, and reacting the product with 4-fluorobenzonitrile to obtain letrozole.

reactant | letrozole | C1=CC(=CC=C1C#N)C(C=2C=CC(=CC2)C#N)N3C=NC=N3 | C17H11N5
reactant | α-bromo-4-tolunitrile | BrCC1=CC=C(C=C1)C#N | C8H6BrN
reactant | 1,2,4-triazole | N1N=CN=C1 | C2H3N3
product | 4-[1-(1,2,4-triazolyl)methyl]-benzonitrile | N1N=C(N=C1)CC1=CC=C(C#N)C=C1 | C10H8N4
